US04883815
500 ml of 2N hydrochloric acid are added to a solution of 103 g (0.35 mol) of 4-acetyl-11-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione in 1 l of tetrahydrofuran and the mixture is stirred at room temperature overnight. The mixture is concentrated in a vacuum, treated with methylene chloride and extracted twice with 2N sodium hydroxide solution; the aqueous phase is then acidified with 6N hydrochloric acid and extracted with methylene chloride. Removal of the solvent by distillation in a vacuum and chromatography on silica gel with methylene chloride/methanol (20:1) yields 2-(4-acetamidobutyryl)-5-chlorohydrocinnamic acid with melting point 90°-92°.

reactant | hydrochloric acid | 2N, 500 ml | Cl | ClH
reactant | 4-acetyl-11-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione | 0.35 mol, 103 g | C(C)(=O)N1C(CCC2=C(C(CCC1)=O)C=CC(=C2)Cl)=O | C15H16ClNO3
reactant | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
product | 2-(4-acetamidobutyryl)-5-chlorohydrocinnamic acid | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)O)C=C(C=C1)Cl | C15H18ClNO4
